US06225467B1
Synthesis of 2,4,6-tris-(4-biphenylyl)-1,3,5-triazine:
In a 100 milliliter round bottom flask there was added 4-biphenylcarbonyl chloride (2.167 grams), 1,2-dichlorobenzene (27.0 milliliters), thionyl chloride (1.0 milliliter), and aluminum chloride (1.33 grams). With stirring, 4-biphenylcarbonitrile (3.58 grams) was added slowly, and the resulting reaction mixture was heated under argon to about 150° C. for 0.5 hour. The temperature of the reaction mixture was reduced to 120° C., then ammonium chloride (1.07 grams) was added in one portion. The reaction mixture was stirred at 150° C. for an additional 20 hours. The reaction flask was removed from the heater and cooled to room temperature, about 25° C. throughout. The resulting mixture was poured into 100 milliliters of methanol and stirred for 20 minutes. The precipitates were collected by filtration and dried in a vacuum oven to afford 3.9 grams of crude product which was further purified by sublimation. The above titled triazinyl product 2,4,6-tris-(4-biphenylyl)-1,3,5-triazine possessed a melting point of 283° C.

reactant | 4-biphenylcarbonyl chloride | 2.167 grams | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | thionyl chloride | 1.0 milliliter | S(=O)(Cl)Cl | Cl2OS
reactant | aluminum chloride | 1.33 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-biphenylcarbonitrile | 3.58 grams | C1(=CC=C(C=C1)C#N)C1=CC=CC=C1 | C13H9N
reactant | ammonium chloride | 1.07 grams | [Cl-].[NH4+]
solvent | 1,2-dichlorobenzene | 27.0 milliliters | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2,4,6-tris-(4-biphenylyl)-1,3,5-triazine | 3.9 grams | C1(=CC=C(C=C1)C1=NC(=NC(=N1)C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C39H27N3
